* =============================================================================
* File: bitcell_8t_2r1w.spice
* Target Technology: SCL 180nm CMOS PDK (ts18scl) / 1.8V
* Description: Transistor-Level 8-Transistor Dual-Read Single-Write (2R1W) Static Bitcell
*
* Port List:
*   WL_W   : Write Wordline
*   BL_W   : Write Bitline
*   BLB_W  : Complementary Write Bitline
*   WL_RA  : Read Wordline Port A
*   BL_RA  : Read Bitline Port A (Single-ended precharged)
*   WL_RB  : Read Wordline Port B
*   BL_RB  : Read Bitline Port B (Single-ended precharged)
* =============================================================================

.subckt BITCELL_8T_2R1W WL_W BL_W BLB_W WL_RA BL_RA WL_RB BL_RB VDD VSS
* -----------------------------------------------------------------------------
* 1. 6T Core Storage Inverters (Cross-Coupled Latch)
* -----------------------------------------------------------------------------
* Inverter 1 (Drives Q, inputs QB)
XM_P1 Q QB VDD VDD p18.1 W=0.7u L=0.18u
XM_N1 Q QB VSS VSS n18.1 W=1.0u L=0.18u

* Inverter 2 (Drives QB, inputs Q)
XM_P2 QB Q VDD VDD p18.1 W=0.7u L=0.18u
XM_N2 QB Q VSS VSS n18.1 W=1.0u L=0.18u

* -----------------------------------------------------------------------------
* 2. Differential Write Access Pass-Gates
* -----------------------------------------------------------------------------
XM_W1 BL_W  WL_W Q  VSS n18.1 W=0.8u L=0.18u
XM_W2 BLB_W WL_W QB VSS n18.1 W=0.8u L=0.18u

* -----------------------------------------------------------------------------
* 3. Decoupled Read Port A (2T Read Stack - Read-Disturb Free!)
* -----------------------------------------------------------------------------
XM_RD_A1 BL_RA WL_RA ND_A VSS n18.1 W=0.8u L=0.18u
XM_RD_A2 ND_A  QB    VSS  VSS n18.1 W=0.8u L=0.18u

* -----------------------------------------------------------------------------
* 4. Decoupled Read Port B (2T Read Stack)
* -----------------------------------------------------------------------------
XM_RD_B1 BL_RB WL_RB ND_B VSS n18.1 W=0.8u L=0.18u
XM_RD_B2 ND_B  QB    VSS  VSS n18.1 W=0.8u L=0.18u

.ends BITCELL_8T_2R1W
